US07351719B2
Z40b) 4-(N-tert.butoxycarbonyl-2-methylamino-ethoxy)-3-chloro-phenylamine
The product was obtained analogously to Intermediate product 29b starting from 4.19 g (12.7 mmol) N-tert.butoxycarbonyl-N-methyl-[2-(2-chloro-4-nitro-phenoxy)-ethyl]-amine by hydrogenation with 500 mg Raney nickel at 3 bar.

reactant | N-tert.butoxycarbonyl-N-methyl-[2-(2-chloro-4-nitro-phenoxy)-ethyl]-amine | 12.7 mmol, 4.19 g | C(C)(C)(C)OC(=O)N(C)CCOC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C14H19ClN2O5
catalyst | Raney nickel | 500 mg | [Ni] | Ni
product | 4-(N-tert.butoxycarbonyl-2-methylamino-ethoxy)-3-chloro-phenylamine | C(C)(C)(C)OC(=O)N(CCOC1=C(C=C(C=C1)N)Cl)C | C14H21ClN2O3
